US04692460
A 215 g (1.71 moles) sample of 5-methyl-2-thiophenecarboxaldehyde, 258 ml (1.71 moles) diethyl malonate, 25 ml piperidine, 0.52 g benzoic acid, and 1.5 L toluene were placed into a round bottom flask and heated to reflux for four hr. with azeotropic removal of water. The reaction was cooled and water was added. The toluene layer was washed with sodium bicarbonate solution. 3N hydrochloric acid, water, brine and dried (MgSO4). The solvent was evaporated in vacuo. The residue was washed with methylcyclohexane. The washings were collected, the solvent removed in vacuo and the residue was recrystallized from methylcyclohexane. The solid materials were combined to give 299.86 g of diethyl 2-[(5-methyl-2-thienyl)methylene]propanedioate, mp 53°-56° C.

reactant | 5-methyl-2-thiophenecarboxaldehyde | CC1=CC=C(S1)C=O | C6H6OS
reactant | diethyl malonate | 1.71 moles, 258 ml | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | piperidine | 25 ml | N1CCCCC1 | C5H11N
reactant | benzoic acid | 0.52 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
solvent | toluene | 1.5 L | C1(=CC=CC=C1)C | C7H8
product | diethyl 2-[(5-methyl-2-thienyl)methylene]propanedioate | 299.86 g | CC1=CC=C(S1)C=C(C(=O)OCC)C(=O)OCC | C13H16O4S
